US04927829
To a suspension of 0.395 g of 60% sodium hydride (mineral oil dispersion) in 20 ml of anhydrous tetrahydrofuran is added 0.82 ml of n-propyl mercaptan under ice-cooling. After stirring for 30 minutes, the resultant mixture is mixed with 2.634 g of 3-ethoxycarbonyl-9-dimethylcarbamoylthio-4H-quinolizin-4-one in 40 ml of tetrahydrofuran, and stirred at room temperature for another 15 hours. The reaction mixture is mixed with 8 ml of aqueous sodium hypochlorite and extracted with methylene chloride. The organic layer is washed with water, dried over sodium sulfate and concentrated to give a residue, which is chromatographed on a column of 30 g of silica gel eluting with methylene chloride-methanol (9:1 v/v) to give crude product, which is recrystallized from ethyl acetate to give 1.153 g (Yield: 56.3%) of 3-ethoxycarbonyl-9-mercapto-4H-quinolizin-4-one.

reactant | sodium hydride | 0.395 g | [H-].[Na+]
reactant | n-propyl mercaptan | 0.82 ml | C(CC)S | C3H8S
reactant | 3-ethoxycarbonyl-9-dimethylcarbamoylthio-4H-quinolizin-4-one | 2.634 g | C(C)OC(=O)C1=CC=C2C(=CC=CN2C1=O)SC(N(C)C)=O | C15H16N2O4S
reactant | sodium hypochlorite | 8 ml | Cl[O-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3-ethoxycarbonyl-9-mercapto-4H-quinolizin-4-one | 1.153 g, Yield: 56.3% | C(C)OC(=O)C1=CC=C2C(=CC=CN2C1=O)S | C12H11NO3S
